US06080752
cis-2,3,3a,4,9,9a-Hexahydro-1H-benz[f]indole
A mixture of cis-1-benzyl-2,3,3a,4,9,9a-hexahydro-1H-benz[f]indole (1.20 g, 4.6 mmol) and palladium hydroxide (0.91 g, 8.6 mmol) in degassed methanol (90 ml) was hydrogenated at 50° C. and 50 psi pressure for 5 h. The resultant mixture was cooled and filtered through kieselguhr. The filtrate was evaporated in vacuo to give the title compound as a colourless oil (0.55 g, 70%).

reactant | cis-1-benzyl-2,3,3a,4,9,9a-hexahydro-1H-benz[f]indole | 4.6 mmol, 1.20 g | C(C1=CC=CC=C1)N1CC[C@@H]2CC3=C(C[C@H]12)C=CC=C3 | C19H21N
solvent | methanol | 90 ml | CO | CH4O
catalyst | palladium hydroxide | 8.6 mmol, 0.91 g | [OH-].[Pd+2].[OH-]
product | cis-2,3,3a,4,9,9a-Hexahydro-1H-benz[f]indole | 0.55 g, 70% | N1CC[C@@H]2CC3=C(C[C@H]12)C=CC=C3 | C12H15N
